US08044208B2
e) 6-Amino-2-[1-(5-cyclopropyl-[1,3,4]thiadiazol-2-ylmethyl)-1H-imidazol-4-yl]-hexanoic acid
0.140 g (261 μmol) of diethyl 2-(4-tert-butoxycarbonylaminobutyl)-2-[1-(5-cyclopropyl-[1,3,4]thiadiazol-2-ylmethyl)-1H-imidazol-4-yl]malonate was suspended in 10 ml of semi-concentrated hydrochloric acid, and the mixture was heated with stirring at 95° C. for 8 h. The reaction mixture was concentrated under reduced pressure and purified by preparative HPLC, and the product-containing fractions were freeze-dried and then taken up in 2.5 eq of 1N hydrochloric acid and freeze-dried and taken up in water and freeze-dried. The preparation was then purified once more by preparative HPLC, and the product-containing fractions were freeze-dried. This gave 35 mg (32%) of the title compound as trifluoroacetic acid salt.

reactant | diethyl 2-(4-tert-butoxycarbonylaminobutyl)-2-[1-(5-cyclopropyl-[1,3,4]thiadiazol-2-ylmethyl)-1H-imidazol-4-yl]malonate | 261 μmol, 0.140 g | C(C)(C)(C)OC(=O)NCCCCC(C(=O)OCC)(C(=O)OCC)C=1N=CN(C1)CC=1SC(=NN1)C1CC1 | C25H37N5O6S
solvent | hydrochloric acid | 10 ml | Cl | ClH
solvent | hydrochloric acid | 1N, 2.5 eq | Cl | ClH
product | 6-Amino-2-[1-(5-cyclopropyl-[1,3,4]thiadiazol-2-ylmethyl)-1H-imidazol-4-yl]-hexanoic acid | NCCCCC(C(=O)O)C=1N=CN(C1)CC=1SC(=NN1)C1CC1 | C15H21N5O2S
